US06884821B1
600 mg diethylphosphonoacetic acid and 969 mg of ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropionate were dissolved in 10 ml N,N-dimethylformamide, followed by the successive addition of 470 μl diethyl cyanophosphonate and 1.07 ml triethylamine. The mixture was stirred overnight at room temperature, and the reaction mixture was diluted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. Thus, 1.387 g of ethyl 3-[3-([2-(diethoxyphosphoryl)acetyl]aminomethyl)-4-methoxyphenyl]-2-isopropoxypropionate was obtained.

reactant | diethylphosphonoacetic acid | 600 mg | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropionate | 969 mg | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
reactant | diethyl cyanophosphonate | 470 μl | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 1.07 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[3-([2-(diethoxyphosphoryl)acetyl]aminomethyl)-4-methoxyphenyl]-2-isopropoxypropionate | 1.387 g | C(C)OP(=O)(OCC)CC(=O)NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C22H36NO8P
